US08536168B2
6-[4-(1-Benzyl-isoquinolin-4-yl)-piperazin-1-yl]-nicotinonitrile
In a 40 mL vial 120 mg (0.40 mmol) 1-benzyl-4-bromo-isoquinoline (see above), 160 mg (0.84 mmol) 6-piperazin-1-yl-nicotinonitrile, 40 mg (0.04 mmol) tris(dibenzylideneaceton)dipalladium(0), and 60 mg (±)-(1,1′-binaphthalene-2-2′diyl)bis(diphenylphosphine) are added to 5 mL dioxane. After flushing the vial with nitrogen for 5 min, the reaction mixture is stirred for 2 min followed by the addition of 150 mg (1.55 mmol) sodium tert-butoxide. After flushing with nitrogen for 5 min, the vial is sealed and heated at 80° C. for 12 h. After cooling, the mixture is loaded onto a silica column directly and purified. The eluent containing the correct mass is concentrated in vacuo and the resulting residue is purified by reversed phase HPLC using a Varian Prostar system equipped with a Waters xTerra column (50×100 mm) and a solvent gradient of 0.1% NH3 in water/0.1% NH3 in acetonitrile (0→100%). Pure fractions are pooled and evaporated to give 40 mg (0.10 mmol, 25% yield) of the title compound.

reactant | 1-benzyl-4-bromo-isoquinoline | 0.40 mmol, 120 mg | C(C1=CC=CC=C1)C1=NC=C(C2=CC=CC=C12)Br | C16H12BrN
reactant | 6-piperazin-1-yl-nicotinonitrile | 0.84 mmol, 160 mg | N1(CCNCC1)C1=NC=C(C#N)C=C1 | C10H12N4
reactant | sodium tert-butoxide | 1.55 mmol, 150 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneaceton)dipalladium(0) | 0.04 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-[4-(1-Benzyl-isoquinolin-4-yl)-piperazin-1-yl]-nicotinonitrile | 0.10 mmol, 40 mg, 25% yield | C(C1=CC=CC=C1)C1=NC=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C#N)C=C1 | C26H23N5
